US09290485B2
c) tert-butyl (4,6-dimethyl-5-((1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)pyridin-2-yl)carbamate
To a solution of 6-(azidomethyl)-2-methylquinoline (58.9 mg, 0.297 mmol) and tert-butyl (4,6-dimethyl-5-(propiolamidomethyl)pyridin-2-yl)carbamate (90 mg, 0.297 mmol) in t-BuOH (2 ml)/water (2 ml) were added copper(II) sulfate pentahydrate (14.84 mg, 0.059 mmol) and sodium ascorbate (58.9 mg, 0.297 mmol). Reaction mixture was stirred for 1.5 h at 23° C. Reaction mixture was poured into water and extracted twice with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate and evaporated to afford the crude material, which was purified by silicagel chromatography (DCM/methanol from 10/0 to 9/1) to afford the title compound. HPLC (Method G) Rt=1.308 min; MS (Method F) [M+H]+=502.5

reactant | 6-(azidomethyl)-2-methylquinoline | 0.297 mmol, 58.9 mg | N(=[N+]=[N-])CC=1C=C2C=CC(=NC2=CC1)C | C11H10N4
reactant | tert-butyl (4,6-dimethyl-5-(propiolamidomethyl)pyridin-2-yl)carbamate | 0.297 mmol, 90 mg | CC1=CC(=NC(=C1CNC(C#C)=O)C)NC(OC(C)(C)C)=O | C16H21N3O3
reactant | water | 2 ml | O | H2O
reactant | sodium ascorbate | 0.297 mmol, 58.9 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH | 2 ml | CC(C)(C)O | C4H10O
catalyst | copper(II) sulfate pentahydrate | 0.059 mmol, 14.84 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | tert-butyl (4,6-dimethyl-5-((1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)pyridin-2-yl)carbamate | CC1=CC(=NC(=C1CNC(=O)C=1N=NN(C1)CC=1C=C2C=CC(=NC2=CC1)C)C)NC(OC(C)(C)C)=O | C27H31N7O3
